US09447093B2
3-phenyl-5-(2-hydroxyphenyl)-1H-pyrrolo[2,3-b]pyridine (A)
To a solution of 3-phenyl-5-(2-methoxyphenyl)-1H-pyrrolo[2,3-b]pyridine (113 mg, 0.38 mmol) in CH2Cl2 (325 μl) is added BBr3 (1.1 ml of 1 N solution in CH2Cl2, 1.13 mmol). The reaction mixture is stirred for 15 hours at room temperature and neutralized at 0° C. with methanol. The solvent is evaporated under reduced pressure and the residue purified by preparative thin-layer chromatography (CH2Cl2/MeOH 94:6) to yield the expected product in the form of a white solid with a yield of 34%.

reactant | 3-phenyl-5-(2-methoxyphenyl)-1H-pyrrolo[2,3-b]pyridine | 0.38 mmol, 113 mg | C1(=CC=CC=C1)C1=CNC2=NC=C(C=C21)C2=C(C=CC=C2)OC | C20H16N2O
reactant | BBr3 | 1.13 mmol, 1 N, 1.1 ml | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | 325 μl | C(Cl)Cl | CH2Cl2
product | 3-phenyl-5-(2-hydroxyphenyl)-1H-pyrrolo[2,3-b]pyridine | yield of 34% | C1(=CC=CC=C1)C1=CNC2=NC=C(C=C21)C2=C(C=CC=C2)O | C19H14N2O
